US09102623B2
A1.1) 4-Butoxy-1,1,1-trifluorobut-3-en-2-one
At 5° C., 79.9 g (0.38 mol) of trifluoroacetic anhydride—dissolved in 100 ml of trichloromethane—were added with stirring to a mixture of 29.9 g (0.38 mol) of pyridine and 50.0 g (0.38 mol) of butyl vinyl ether in 200 ml of trichloromethane. After the addition, stirring was continued at room temperature for another 15 h. 300 ml of water were then added to the mixture, and the organic phase was separated off, dried and concentrated. This gave 59 g (79% of theory) of a yellowish oil.

reactant | trifluoroacetic anhydride | 0.38 mol, 79.9 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 0.38 mol, 29.9 g | N1=CC=CC=C1 | C5H5N
reactant | butyl vinyl ether | 0.38 mol, 50.0 g | C(=C)OCCCC | C6H12O
reactant | water | 300 ml | O | H2O
solvent | trichloromethane | 100 ml | ClC(Cl)Cl | CHCl3
solvent | trichloromethane | 200 ml | ClC(Cl)Cl | CHCl3
product | 4-Butoxy-1,1,1-trifluorobut-3-en-2-one | C(CCC)OC=CC(C(F)(F)F)=O | C8H11F3O2
